US06649643B1
Production of 6-[1-Hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl)-N-isopropoxy-2-naphthamide
In a manner to that described in Example 9-(i), methyl 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoate (1.77 g) was converted to 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoic acid, which was reacted with O-isopropylhydroxylamine hydrochloride (420 mg) in a similar manner as described in Example 24-(i) to give the titled compound (1.46 g) as a pale yellow powder.

reactant | methyl 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoate | 1.77 g | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)OC | C38H34N2O3
reactant | 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoic acid | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)O | C37H32N2O3
reactant | O-isopropylhydroxylamine hydrochloride | 420 mg | Cl.C(C)(C)ON
product | 6-[1-Hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl)-N-isopropoxy-2-naphthamide | 1.46 g | OC(C(C)C)(C=1N=CNC1)C=1C=C2C=CC(=CC2=CC1)C(=O)NOC(C)C | C21H25N3O3
